US04146721
9.3 grams 3,3-diacetyl-propionic acid-ethyl ester, 8.7 grams p-methoxy phenyl-hydrazinehydrochloride, 4.9 grams anhydrous sodium acetate and 90 milliliters ethanol were mixed and the mixture heated to boiling temperature under reflux for 2.5 hours. The reaction mixture was thereafter evaporated and ether added to the residue. The ether phase was extracted with water and the ether evaporated. The crystalline residue was recrystallized twice from a mixture of ethanol and water. 9.2 grams 3,5-dimethyl-1-(p-methoxy phenyl)-pyrazol-4-acetic acid-ethyl ester, melting at 71°-72° C. were obtained, representing a yield of 64%.

reactant | 3,3-diacetyl-propionic acid-ethyl ester | 9.3 grams | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | p-methoxy phenyl-hydrazinehydrochloride | 8.7 grams | Cl.COC1=CC=C(C=C1)NN
reactant | sodium acetate | 4.9 grams | C(C)(=O)[O-].[Na+]
solvent | ethanol | 90 milliliters | C(C)O | C2H6O
product | 3,5-dimethyl-1-(p-methoxy phenyl)-pyrazol-4-acetic acid-ethyl ester | 9.2 grams, yield of 64% | C(C)OC(CC=1C(=NN(C1C)C1=CC=C(C=C1)OC)C)=O | C16H20N2O3
